US08609680B2
Preparation of 5-Phenoxy-indan-1-one (SM-1i)
In an oven-dried round-bottomed flask was combined 5-hydroxy-1-indanone (112 mg, 0.76 mmol), phenylboronic acid (170 mg, 1.51 mmol) and anhydrous copper (II) acetate (195 mg, 1.13 mmol) in 2.5 mL of dichloromethane. Anhydrous pyridine (0.11 mL, 1.5 mmol) was added and the reaction was stirred overnight at room temperature. The reaction was concentrated to dryness and was purified with ISCO column chromatography (Teledyne Isco Inc., Lincoln Nebr.) (0-40% ethyl acetate/heptanes gradient) to give the desired product (SM-1i, 170 mg, 97%) as a clear oil which solidified on standing. MS (ES+) 225.3 (M+H)+. 1H NMR (CDCl3) δ 2.48-2.70 (m, 2H), 2.87-3.08 (m, 2H), 6.78-7.01 (m, 2H), 7.03-7.11 (m, 2H), 7.15-7.30 (m, 1H), 7.32-7.53 (m, 2H), 7.70 (d, 1H).

reactant | 5-hydroxy-1-indanone | 0.76 mmol, 112 mg | OC=1C=C2CCC(C2=CC1)=O | C9H8O2
reactant | phenylboronic acid | 1.51 mmol, 170 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 1.5 mmol, 0.11 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 1.13 mmol, 195 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-Phenoxy-indan-1-one | 170 mg, 97% | O(C1=CC=CC=C1)C=1C=C2CCC(C2=CC1)=O | C15H12O2
